US07405215B2
b.) 2-Butyl-4-(2-methyl-1H-indol-3-yl)-4a,5,8,8a-tetrahydro-2H-phthalazin-1-one
The product of step a) (200 mg, 0.71 mmol) was treated with Et3N (0.71 mmol, 98 uL), n-butyl hydrazine oxalate (0.71 mmol, 126 mg) and 10 mL toluene. The suspension was refluxed for 48 h. The reaction was cooled, treated with 15 mL EtOAc and 5 mL 1M NaOH, and heated to 70° C. for 30 min. The organic layer was filtered through silica gel and further eluted with EtOAc. The combined eluent was concentrated to dryness to give the sub-titled compound which was used without further purification.

reactant | Et3N | 0.71 mmol, 98 uL | CCN(CC)CC | C6H15N
reactant | n-butyl hydrazine oxalate | 0.71 mmol, 126 mg | C(C(=O)O)(=O)O.C(CCC)NN
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | 1M, 5 mL | [OH-].[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-Butyl-4-(2-methyl-1H-indol-3-yl)-4a,5,8,8a-tetrahydro-2H-phthalazin-1-one | C(CCC)N1C(C2CC=CCC2C(=N1)C1=C(NC2=CC=CC=C12)C)=O | C21H25N3O
